Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ G0 POD#1 from vaginal septum resection presents to the
ED with vaginal bleeding. She reports starting last night,
passing clots and having heavy bleeding at home. She has had to
change her pad every ___ hours. Denies abdominal pain, nausea,
lightheadedness, chest pain, or shortness of breath. 

 
Past Medical History:
PMH: anxiety, asthma, scoliosis, tethered spinal cord,
resicoureteral reflux
PSH: spine surgery for tethered cord, wisdom teeth extraction
OBHx: G0
GYNHx: 
- LMP early ___
- Chlamydia s/p treatment
- longitudinal vaginal septum with two cervices, bicornuate
uterus

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Admission Exam:

Vitals:
T 98.8, HR 82, BP 121/70, RR 16, SpO2 98% RA 
Gen: A&O, NAD
Resp: breathing comfortably
Abd: soft, NT/ND
SSE: ~100cc clots cleared from vaginal vault, suture lines
intact, no clear source of active bleeding
BME: suture lines intact on palpation, no CMT

Discharge Exam:

24 HR Data (last updated ___ @ 328)
    Temp: 98.5 (Tm 98.8), BP: 111/72 (111-126/72-84), HR: 73
(73-82), RR: 17 (___), O2 sat: 98% (98-100), O2 delivery: Ra
Fluid Balance (last updated ___ @ 328)
  Last 8 hours  Total cumulative -450ml
    IN: Total 0ml
    OUT:  Total 450ml, Urine Amt 450ml
  Last 24 hours  Total cumulative -290ml
    IN: Total 360ml, PO Amt 360ml
    OUT:  Total 650ml, Urine Amt 650ml

Physical Exam:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, non-tender 
GU: pad with minimal spotting, foley in place 
Extremities: no edema, no TTP, pneumoboots in place bilaterally

 
Pertinent Results:
___ 05:44AM BLOOD WBC-7.5 RBC-3.17* Hgb-8.9* Hct-28.4* 
MCV-90 MCH-28.1 MCHC-31.3* RDW-13.9 RDWSD-45.4 Plt ___
___ 07:11PM BLOOD WBC-8.9 RBC-3.34* Hgb-9.5* Hct-30.2* 
MCV-90 MCH-28.4 MCHC-31.5* RDW-13.6 RDWSD-45.0 Plt ___
___ 12:35PM BLOOD WBC-10.2* RBC-3.73* Hgb-10.4* Hct-32.8* 
MCV-88 MCH-27.9 MCHC-31.7* RDW-13.8 RDWSD-44.4 Plt ___
___ 12:35PM BLOOD Neuts-59.1 ___ Monos-7.6 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-6.02 AbsLymp-3.28 AbsMono-0.77 
AbsEos-0.05 AbsBaso-0.02
___ 12:35PM BLOOD Glucose-87 UreaN-9 Creat-0.6 Na-138 K-4.1 
Cl-102 HCO3-24 AnGap-12
___ 11:58AM URINE Color-Straw Appear-Clear Sp ___
___ 11:58AM URINE Blood-LG* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:58AM URINE RBC->182* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-0
 
Brief Hospital Course:
Ms. ___ is a ___ s/p longitudinal vaginal septum 
resection (___) who was admitted with vaginal bleeding on 
___.  She had vaginal packing placed on ___, as well as a 
foley catheter.  Both were removed on ___.  Her blood counts 
were trended as follows:  32.8 -> 30.2 ___ ___ -> 28.4 ___ 
AM).  Her bleeding remained stable once her packing was removed. 
 She was meeting all post operative milestones, and her pain was 
controlled with oral pain medications.  She was discharged home 
with precautions and instructions for follow up.

 
Medications on Admission:
fluoxetine, naproxen, methocarbamol, dicyclomine,
fluticasone, albuterol, OCP
 
Discharge Medications:
1.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginal bleeding post operatively

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for evaluation of 
bleeding. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___